US08486946B2
Step 2: Preparation of ethyl 3-(2-fluorophenyl)-2-hydrazono-3-oxopropanoate
Ethyl 2-diazo-3-(2-fluorophenyl)-3-oxopropanoate (1.06 g, 4.49 mmol) was dissolved in acetonitrile (20 mL), cooled to 0° C. and treated with tri-n-butylphosphine (1.16 mL, 4.71 mmol, 1.05 equiv). The mixture was warmed to ambient temperature and after 10 minutes, was concentrated in vacuo. The residue was purified via silica gel gradient chromatography (100:0 to 75:25; hexanes:ethyl acetate) to provide the titled compound.

reactant | Ethyl 2-diazo-3-(2-fluorophenyl)-3-oxopropanoate | 4.49 mmol, 1.06 g | [N+](=[N-])=C(C(=O)OCC)C(=O)C1=C(C=CC=C1)F | C11H9FN2O3
reactant | tri-n-butylphosphine | 4.71 mmol, 1.16 mL, 1.05 equiv | C(CCC)P(CCCC)CCCC | C12H27P
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | ethyl 3-(2-fluorophenyl)-2-hydrazono-3-oxopropanoate | FC1=C(C=CC=C1)C(C(C(=O)OCC)=NN)=O | C11H11FN2O3
